US06303733B1
Second Preparation of 1-ETHYNYL-4-FLUOROBENZENE
A 12-Liter 3-neck round-bottom flask equipped with a nitrogen inlet, an overhead mechanical stirrer, was charged with 6 Liters of methanol, the 1-fluoro-4-(trimethylsilyl)ethynylbenzene (1432 g) prepared above, and 98 g of anhydrous potassium carbonate. Stirring was continued until no starting material was detected by gas chromatographic analysis (about 1 hour).

reactant | 1-fluoro-4-(trimethylsilyl)ethynylbenzene | 1432 g | FC1=CC=C(C=C1)C#C[Si](C)(C)C | C11H13FSi
reactant | potassium carbonate | 98 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | 1-ETHYNYL-4-FLUOROBENZENE | C(#C)C1=CC=C(C=C1)F | C8H5F
